US07977477B2
A mixture of quinoline-8-carboxylic acid (104 mg, 0.60 mmol), 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (100 mg, 0.50 mmol), EDC (116 mg, 0.60 mmol) and HOBt (81 mg, 0.60 mmol) was stirred at room temperature in DMF (1.5 ml) for 20 h. The reaction mixture was purified by preparative LC/MS to give quinoline-8-carboxylic acid [3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-amide (11 mg, 6%) as a brown solid. (LC/MS: Rt 3.85, [M+H]+ 355.11).

reactant | quinoline-8-carboxylic acid | 0.60 mmol, 104 mg | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.50 mmol, 100 mg | N1C(=NC2=C1C=CC=C2)C2=NNC=C2N | C10H9N5
reactant | EDC | 0.60 mmol, 116 mg
reactant | HOBt | 0.60 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | quinoline-8-carboxylic acid [3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-amide | 11 mg, 6% | N1C(=NC2=C1C=CC=C2)C2=NNC=C2NC(=O)C=2C=CC=C1C=CC=NC21 | C20H14N6O
